US06388084B1
A solution of 3-bromo-5-chloro-1-methyl-2-pyridone (660 mg, 2.97 mmol) and N-[(1,1-dimethylethoxy)carbonyl]-4-[(tributyl)stannyl]-L-phenylalanine methyl ester (1.7 g, 2.99 mmol) in DMF (30 mL) was deoxygenated by alternately freezing the mixture in a liquid nitrogen bath under vacuum and thawing under argon (3×). Tetrakis(triphenylphosphine)palladium (140 mg, 0.20 mmol) was added and the mixture was heated to 90° C. for 3 hr as the mixture turned dark. TLC indicated that the reaction was not complete and an additional 140 mg portion of the catalyst was added and heating continued for 4 hr. The mixture was allowed to cool and was diluted with dichloromethane and was filtered through a pad of celite. The filtrate was evaporated to dryness and the residue was dissolved in 1:1 ether:ethyl acetate (60 mL). The solution was washed with water (3×10 mL) and brine (1×10 mL) and was dried (MgSO4). The residue obtained upon concentration was chromatographed over 150 g of silica gel eluting with 7:3 ethyl acetate:hexane to give 4-(5-chloro-1-methyl-2-oxo-3-pyridinyl)-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine methyl ester (670 mg, 54%). LRMS-Electrospray: m/z 863 (2M+Na), 858 (2M+NH4), 443 (M+Na), 438 (M+NH4), 421(M+H).

reactant | 3-bromo-5-chloro-1-methyl-2-pyridone | 2.97 mmol, 660 mg | BrC=1C(N(C=C(C1)Cl)C)=O | C6H5BrClNO
reactant | N-[(1,1-dimethylethoxy)carbonyl]-4-[(tributyl)stannyl]-L-phenylalanine methyl ester | 2.99 mmol, 1.7 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)[Sn](CCCC)(CCCC)CCCC)=O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Tetrakis(triphenylphosphine)palladium | 0.20 mmol, 140 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(5-chloro-1-methyl-2-oxo-3-pyridinyl)-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine methyl ester | 670 mg, 54% | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C=1C(N(C=C(C1)Cl)C)=O)=O | C21H25ClN2O5
